US06194409B1
To a stirred, precooled solution (-40° C.) of 0.41 mL of sulfuryl chloride in 10 mL of chloroform was added a mixture of 1.0 g of 7-methoxy-1,2,3,4-tetrahydro-isoquinoline-hydrochloride and 2.1 mL of triethylamine in 25 mL of chloroform at −40° C. Stirring was continued at −30° C. for one hour and additionally at 5° C. for one hour. The mixture was poured on ice, the organic layer extracted with cold water, dried (sodium sulfate) and concentrated. The residue was redissolved in diethyl ether and chromatographed on silica gel (isohexane/ethyl acetate=8/2 v/v) yielding 0.62 g of 7-methoxy-3,4-dihydro-1H-isoquinoline-2-sulfonyl chloride as an oil. EI-MS: 261 (M+).

reactant | sulfuryl chloride | 0.41 mL | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | 7-methoxy-1,2,3,4-tetrahydro-isoquinoline-hydrochloride | 1.0 g | Cl.COC1=CC=C2CCNCC2=C1
reactant | triethylamine | 2.1 mL | C(C)N(CC)CC | C6H15N
solvent | chloroform | 10 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 25 mL | C(Cl)(Cl)Cl | CHCl3
product | 7-methoxy-3,4-dihydro-1H-isoquinoline-2-sulfonyl chloride | 0.62 g | COC1=CC=C2CCN(CC2=C1)S(=O)(=O)Cl | C10H12ClNO3S
